US07947691B2
3′-(3-Hydroxy-2,4-dioxo-3,4-dihydro-2H-thieno[3,2-d]pyrimidin-1-ylmethyl)-biphenyl-4-carboxylic acid amide
The title compound was prepared from 1-(3-Bromo-benzyl)-3-hydroxy-1H-thieno[3,2-d]pyrimidine-2,4-dione (from previous example) and 4-aminocarbonyl-phenyl boronic acid via general procedure C. The crude product was purified by mass-triggered preparative HPLC. 1H NMR (DMSO-d6) δ 10.87 (bs, 1H), 8.11 (d, 1H, J=5.4 Hz), 7.96 (d, 2H, J=8.4 Hz), 7.74 (s, 1H), 7.71 (d, 2H, J=7.8 Hz), 7.63 (d, 1H, J=7.8 Hz), 7.45 (t, 1H, J=7.8 Hz), 7.36 (d, 1H, J=5.4 Hz), 7.28 (d, 1H, J=7.5 Hz), 5.35 (s, 2H); Electrospray MS: 394 (M+H); retention time: 1.96 min.

reactant | 1-(3-Bromo-benzyl)-3-hydroxy-1H-thieno[3,2-d]pyrimidine-2,4-dione | BrC=1C=C(CN2C(N(C(C3=C2C=CS3)=O)O)=O)C=CC1 | C13H9BrN2O3S
reactant | 4-aminocarbonyl-phenyl boronic acid | NC(=O)C1=CC=C(C=C1)B(O)O | C7H8BNO3
product | 3′-(3-Hydroxy-2,4-dioxo-3,4-dihydro-2H-thieno[3,2-d]pyrimidin-1-ylmethyl)-biphenyl-4-carboxylic acid amide | ON1C(N(C2=C(C1=O)SC=C2)CC=2C=C(C=CC2)C2=CC=C(C=C2)C(=O)N)=O | C20H15N3O4S
